US06762180B1
(29) 3-Z-[1-(4-[(2,6-dimethyl-piperidin-1-yl)-methyl]-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and 4-[(2,6-dimethyl-piperidin-1-yl)-methyl]-aniline Rf value: 0.5 (RP 8, methanol/five percent saline solution=4:1) C31H33N3O3

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | 4-[(2,6-dimethyl-piperidin-1-yl)-methyl]-aniline | CC1N(C(CCC1)C)CC1=CC=C(N)C=C1 | C14H22N2
product | 3-Z-[1-(4-[(2,6-dimethyl-piperidin-1-yl)-methyl]-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | CC1N(C(CCC1)C)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C31H33N3O3
